US07846941B2
Cyclohexylmethyl-[5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-pyridin-2-yl]-amine
was prepared following the protocol of Scheme 8, substituting (6-Isobutylamino-pyridin-3-yl)-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone P-0025 with [6-(Cyclohexylmethyl-amino)-pyridin-3-yl]-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone P-0031, (prepared as described in Example 5). MS (ESI) [M+H+]+=321.

reactant | (6-Isobutylamino-pyridin-3-yl)-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone | C(C(C)C)NC1=CC=C(C=N1)C(=O)C1=CNC2=NC=CC=C21 | C17H18N4O
reactant | [6-(Cyclohexylmethyl-amino)-pyridin-3-yl]-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone | C1(CCCCC1)CNC1=CC=C(C=N1)C(=O)C1=CNC2=NC=CC=C21 | C20H22N4O
product | Cyclohexylmethyl-[5-(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-pyridin-2-yl]-amine | C1(CCCCC1)CNC1=NC=C(C=C1)CC1=CNC2=NC=CC=C21 | C20H24N4
